US06096895
Step A: Preparation of 3-nitro-2-(3-phenoxyphenoxy)pyridine
3-Phenoxyphenol (3 g, 16.1 mmol) was added to a solution of potassium t-butoxide (1.90 g of 90%, 16.6 mmol) in 50 mL of dry tetrahydrofuran at room temperature after which the reaction was stirred at room temperature for 10 min. Then, 2-chloro-3-nitropyridine (2.56 g, 16.1 mmol) was added. The reaction mixture was stirred at room temperature for 16 h. The reaction mixture was concentrated under reduced pressure. The residue was diluted with water, extracted twice with methylene chloride and dried over magnesium sulfate. The solvent was then removed to yield the title compound of Step A as an oil. 1H NMR (CDCl3 ; 300 MHz): δ 6.85 (m,1H), 6.90 (m,2H), 7.0-7.2 (m,4H), 7.3-7.4 (m,3H), 8.35 (m,2H).

reactant | 3-Phenoxyphenol | 16.1 mmol, 3 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | potassium t-butoxide | 16.6 mmol, 1.90 g | CC(C)([O-])C.[K+]
reactant | 2-chloro-3-nitropyridine | 16.1 mmol, 2.56 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-nitro-2-(3-phenoxyphenoxy)pyridine | [N+](=O)([O-])C=1C(=NC=CC1)OC1=CC(=CC=C1)OC1=CC=CC=C1 | C17H12N2O4
